US04699992
33.4 g of ethyl 3-dimethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate are heated to boiling under reflux with 7 g of cyclopropylamine and 120 ml of toluene for 1 hour. The gas evolution, the onset of which is initially violent, is then finished. The toluene is removed by distillation in vacuo, and the solid residue is recrystallized from light petroleum. 32.5 g of ethyl 3-cyclopropylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate of melting point 89°-91° C. are obtained.

reactant | ethyl 3-dimethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate | 33.4 g | CN(C=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O)C | C14H14Cl2FNO3
reactant | cyclopropylamine | 7 g | C1(CC1)N | C3H7N
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-cyclopropylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate | 32.5 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O | C15H14Cl2FNO3
